US07449456B2
1-(4-Nitrophenyl)piperazine and 4-bromobutyronitrile were allowed to undergo the reaction under heating in 1-methyl-2-pyrrolidone in the presence of potassium carbonate. The resulting compound was allowed to react with polyphosphoric acid under heating and then subjected to catalytic hydrogenation in the same manner as shown in Reference Example 3 to obtain 4-[4-(4-aminophenyl)piperazin-1-yl]butanamide. F: 263.

reactant | 1-(4-Nitrophenyl)piperazine | [N+](=O)([O-])C1=CC=C(C=C1)N1CCNCC1 | C10H13N3O2
reactant | 4-bromobutyronitrile | BrCCCC#N | C4H6BrN
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | 1-methyl-2-pyrrolidone | CN1C(CCC1)=O | C5H9NO
product | 4-[4-(4-aminophenyl)piperazin-1-yl]butanamide | NC1=CC=C(C=C1)N1CCN(CC1)CCCC(=O)N | C14H22N4O
